US09145387B2
To a stirred solution of 2,5-dichloro-4-(2-nitrophenoxy)pyrimidine (300 mg, 1.052 mmol) in 0.08M p-PTSA/1,4-dioxane (10 mL) was added 1-(4-(4-amino-3-methoxy phenyl)piperazin-1-yl)ethanone (262 mg, 1.052 mmol), and the mixture was heated to 100° C. for 16 h. TLC showed completion of starting material (TLC system: 5% methanol in chloroform (Rf): 0.4). 1,4-dioxane was evaporated under reduced pressure, and the remainder was diluted with ethyl acetate (35 mL) and the remainder was washed with water (10 mL) followed by saturated NaHCO3 solution (10 mL). The organic layer was separated, dried over sodium sulphate, and concentrated. Crude compound was purified by column chromatography using silica gel (100-200 mesh) with 3% methanol in chloroform to obtain 1-(4-(4-(5-chloro-4-(2-nitrophenoxy)pyrimidin-2-ylamino)-3-methoxyphenyl) piperazin-1-yl)ethanone as a grey solid. (Yield: 140 mg, 26.6%). MS: m/z 308.4 (ES+, M+H).

reactant | 2,5-dichloro-4-(2-nitrophenoxy)pyrimidine | 1.052 mmol, 300 mg | ClC1=NC=C(C(=N1)OC1=C(C=CC=C1)[N+](=O)[O-])Cl | C10H5Cl2N3O3
reactant | 1-(4-(4-amino-3-methoxy phenyl)piperazin-1-yl)ethanone | 1.052 mmol, 262 mg | NC1=C(C=C(C=C1)N1CCN(CC1)C(C)=O)OC | C13H19N3O2
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-(4-(5-chloro-4-(2-nitrophenoxy)pyrimidin-2-ylamino)-3-methoxyphenyl) piperazin-1-yl)ethanone | ClC=1C(=NC(=NC1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)=O)OC)OC1=C(C=CC=C1)[N+](=O)[O-] | C23H23ClN6O5
